US06169091A
4-[4-(2-Thienylmethoxy)anilino]thieno[3,2-d]pyrimidine hydrochloride
4-Chlorothieno[3,2-d]pyrimidine (0.102 g, 0.60 mmol) and 4-(2-thienylmethoxy)-aniline (prepared according to the published method: WO 96/09294) (0.135 g, 0.66 mmol) were reacted in 2-propanol (5 ml) for 2 hours, according to Procedure A. The product was obtained as a grey-green solid (0.138 g, 61%) with m.p. 181-182° C.; (Found: C, 53.64; H, 3.61; N, 11.04. C17H13N3OS2.HCl.0.25H2O requires: C, 53.68; H, 3.84; N, 11.05%); δH [2H6]-DMSO 11.28 (1H, br s, NH), 8.75 (1H, s, 2-H), 8.45 (1H, d, J 7, 6 H or 7 H) 7.45-7.68 (4H, m, 6H or 7H, 2′-H, 6′-H, 5″-H), 6.95-7.28 (4H, m, 3′-H, 5′-H, 3″-H, 4″-H), 5.32 (2H, s, CH2); m/z 339 (M+).

reactant | 4-Chlorothieno[3,2-d]pyrimidine | 0.60 mmol, 0.102 g | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | 4-(2-thienylmethoxy)-aniline | S1C(=CC=C1)COC1=CC=C(N)C=C1 | C11H11NOS
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 4-[4-(2-Thienylmethoxy)anilino]thieno[3,2-d]pyrimidine hydrochloride | 0.138 g, 61% | Cl.S1C(=CC=C1)COC1=CC=C(NC=2C3=C(N=CN2)C=CS3)C=C1 | InChI=1S/C17H13N3OS2.ClH/c1-2-14(22-8-1)10-21-13-5-3-12(4-6-13)20-17-16-15(7-9-23-16)18-11-19-17;/h1-9,11H,10H2,(H,18,19,20);1H
